US06372736B1
(2S)-N2-[(3S)-1-Benzylpyrrolidin-3-yl]-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxamide
The title compound was prepared by a similar method to Example 1 from (2S)-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxylic acid [see Preparation 45] and (3S)-1-benzylpyrrolidin-3-ylamine [see J. Med. Chem. (1989), 31(8), 1586-1590] to afford (2S)-N2-[(3S)-1-benzylpyrrolidin-3-yl]-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxamide as a solid.

reactant | (2S)-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxylic acid | ClC1=CC2=C(N=C(S2)N2[C@@H](CCCC2)C(=O)O)C=C1 | C13H13ClN2O2S
reactant | (3S)-1-benzylpyrrolidin-3-ylamine | C(C1=CC=CC=C1)N1C[C@H](CC1)N | C11H16N2
product | (2S)-N2-[(3S)-1-benzylpyrrolidin-3-yl]-1-(6-chloro-1,3-benzothiazol-2-yl)-2-piperidinecarboxamide | C(C1=CC=CC=C1)N1C[C@H](CC1)NC(=O)[C@H]1N(CCCC1)C=1SC2=C(N1)C=CC(=C2)Cl | C24H27ClN4OS
